Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
venlafaxine / dncb
 
Attending: ___.
 
Chief Complaint:
Nausea and vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yoF with dementia, HL, recent diagnosis of colon cancer and 
urinary retention with indwelling foley who presents with 
nausea, vomiting and diarrhea. History obtained mostly from 
daughter as patient cannot relate details.
Reports the onset of nausea last evening and patient did not eat 
dinner. Then, this morning developed watery diarrhea and 
non-bloody, non-bilious vomiting. BP was also elevated to 
140/111 per daughter. Daughter brought her to the ED. No fevers 
(Tm 99.5 per daughter), pain, h/o abdominal surgeries, or 
worsening confusion.
She has recently been diagnosed with colon cancer ___ during 
a workup for iron deficiency anemia. She is due to see Dr. ___ 
___ ___ surgery in several weeks (___) to discuss treatment 
options. Had CT abd/pelvis without evidence of metastatic 
disease. Was noted on the CT to have a very distended full 
bladder and seen in urgent care at that time (several weeks ago) 
for urinary retention. Cause has not been found but did have 
foley placement at that time. Seen again on ___ with clogged 
foley and underwent change of foley at that time. Also underwent 
cystoscopy which did not show any cause of obstruction, but 
recommended repeat in several weeks. Urine cx sent on ___ from 
___ and given 1 dose of nitrofurantoin. Urine cx still pending. 
Daughter reports patient was feeling weak and somewhat more 
disoriented at her visit on ___ but not much different than her 
baseline.
Notably, patient has not yet been told about her cancer 
diagnosis, although did discuss a "mass" and need for surgery in 
front of her today.
In the ED, initial vitals were 97.4 92 129/56 14 97% RA. Given 
1L NS and ceftriaxone for U/A consistent with infection. Labs 
significant for WBC 21.6, lactate 0.6.
Currently, patient states she feels well and denies pain or 
nausea.
 
Past Medical History:
Recent diagnosis of colon cancer, no known ___
Dementia
Iron deficiency anemia
Glaucoma
Hyperlipidemia
Irritable bowel syndrome
Anxiety
Osteoporosis
Osteoarthritis
Diverticulosis
Lactose intolerance
S/p hysterectomy/oophorectomy
H/o corneal transplant
Pseudophakia
Weight loss
Dysthymic disorder
Pancreatic cysts
Dermatofibroma
Pulmonary nodules, multiple
Knee joint pain
 
Social History:
___
Family History:
Sister with ovarian cancer, brother lung cancer, brother with 
___.
 
Physical Exam:
VS - 98.7 120/70 73 18 100%RA
GENERAL - well-appearing elderly female in NAD, comfortable, 
appropriate
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MM slightly dry, 
OP clear
NECK - supple, no thyromegaly, no JVD
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2
ABDOMEN - NABS, soft/ND, mild tenderness to palpation in 
suprapubic area, no masses or HSM, no rebound/guarding. Endorses 
mild discomfort with CVA percussion bilaterally.
EXTREMITIES - WWP, no c/c/e
SKIN - no rashes or lesions
NEURO - awake, oriented to person, place, and year. Not able to 
state month/date but when told it is ___, able to recall that 
this is the date of ___. Strength ___ in BLE, sensation 
intact.

VS - 98.7, 136-158/62-70, 64-91, 95-100% RA
GENERAL - well-appearing elderly female in NAD, comfortable, 
appropriate, oriented to ___, tangential
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MM slightly dry, 
OP clear
NECK - supple, no thyromegaly, no JVD
LUNGS - CTA bilat, no r/rh/wh, good air movement, resp 
unlabored, no accessory muscle use
HEART - PMI non-displaced, RRR, no MRG, nl S1-S2
ABDOMEN - NABS, soft/ND, mild tenderness to palpation in 
suprapubic area, no masses or HSM, no rebound/guarding. Endorses 
mild discomfort with CVA percussion bilaterally.
EXTREMITIES - WWP, no c/c/e
SKIN - no rashes or lesions
 
Pertinent Results:
___ 01:30PM BLOOD WBC-21.6* RBC-3.81* Hgb-12.1 Hct-36.3 
MCV-95 MCH-31.8 MCHC-33.3 RDW-13.1 Plt ___
___ 01:30PM BLOOD Neuts-94.6* Lymphs-3.7* Monos-1.7* 
Eos-0.1 Baso-0
___ 01:30PM BLOOD Glucose-117* UreaN-35* Creat-1.0 Na-140 
K-4.0 Cl-105 HCO3-23 AnGap-16
___ 01:30PM BLOOD ALT-23 AST-35 AlkPhos-103 TotBili-0.2
___ 06:20AM BLOOD Calcium-7.6* Phos-2.0* Mg-2.3
___ 04:04PM BLOOD Lactate-0.6

MICRO
___ URINE CULTURE negative 
___ BLOOD CULTURE (Pending)
___ C diff negative

CXR ___: Preliminary read- no acute process

UA
___ 01:50PM URINE Blood-SM  Nitrite-NEG Protein-100 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 01:50PM URINE RBC-7* WBC-62* Bacteri-MOD Yeast-NONE 
Epi-0
___ 01:50PM URINE Color-Yellow Appear-Hazy Sp ___

___ 06:25AM BLOOD WBC-6.3 RBC-3.20* Hgb-9.9* Hct-30.1* 
MCV-94 MCH-30.9 MCHC-32.8 RDW-13.3 Plt ___
___ 06:25AM BLOOD Glucose-100 UreaN-14 Creat-0.7 Na-142 
K-4.0 Cl-109* HCO3-24 AnGap-___ yoF with dementia, HL, recent diagnosis of colon cancer and 
urinary retention with indwelling Foley who presents with 
nausea, vomiting and diarrhea.

# Bacterial UTI with Chronic Foley: UA positive and perhaps mild 
suprapubic tenderness on exam, has chronic indwelling Foley for 
urinary retention (see below) which was changed. Since no recent 
known fevers and CVA tenderness not impressive on exam, unlikely 
pyelonephritis. Has had recent instrumentation. She was started 
on ceftriaxone ___. Urine cultures from Atrius ___ were 
negative. Urine cultures here were negative for final read. She 
was discharged with a 5 day course of ceftriaxone transitioned 
to cefpodoxime ending ___, total 7 days.

# Nausea/vomiting/diarrhea due to presumed gastroenteritis: Has 
history of IBS and per daughter, patient routinely has 
intermittent diarrhea. C diff negative. ___ be related to UTI. 
___ also have acute viral gastroenteritis. Has h/o IBS as well. 
Patient was maintained on NS 150cc/hr switched to LR due to mild 
hypokalemia. She was able to adequately hydrate with PO's, but 
still having intermittent diarrhea. C diff was negative. She was 
discharged with two day supply of Lomotil.

# Leukocytosis: Likely due to UTI vs infectious diarrhea. CXR 
and history does not suggest PNA. LFT's were normal. WBC trended 
down with hydration. 

# Urinary retention: Unclear cause of urinary retention in 
outpatient setting and s/p negative cystoscopy. Has urology f/u. 
No evidence of obstruction on recent CT other than distended 
bladder. No recent med changes. No back pain, weakness in ___ on 
exam or sensory changes to suggest cord compression. The 
patient's Foley was changed and she will continue to follow up 
with urology.

# Colon cancer: Patient not aware of diagnosis (has not been 
told, but also unlikely to be able to participated in care 
decisions based on my conversations with her today). She has 
outpt follow-up with ___ urology.

# Depression: Home citalopram

# Iron deficiency anemia, B12 deficiency: Hct at recent 
baseline, continued home B12, iron

TRANSITIONAL ISSUES:
Patient requires outpatient urology followup

PENDING STUDIES:
Blood culture no growth to date.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 
2. Vitamin D 400 UNIT PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Donepezil 10 mg PO HS 
5. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QAM 
6. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID 
7. Bacitracin Ophthalmic Oint 1 Appl BOTH EYES QHS 
8. Ferrous Sulfate 325 mg PO DAILY 
9. Multivitamins 1 TAB PO DAILY 
10. Simvastatin 10 mg PO DAILY 

 
Discharge Medications:
1. Bacitracin Ophthalmic Oint 1 Appl BOTH EYES QHS 
2. Citalopram 20 mg PO DAILY 
3. Cyanocobalamin 1000 mcg PO DAILY 
4. Donepezil 10 mg PO HS 
5. Ferrous Sulfate 325 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP RIGHT EYE QAM 
8. PrednisoLONE Acetate 1% Ophth. Susp. 1 DROP LEFT EYE QID 
9. Simvastatin 10 mg PO DAILY 
10. Vitamin D 400 UNIT PO DAILY 
11. Cefpodoxime Proxetil 400 mg PO Q12H Duration: 4 Days 
RX *cefpodoxime 200 mg 1 tablet(s) by mouth twice daily Disp #*8 
Tablet Refills:*0
12. Diphenoxylate-Atropine 1 TAB PO ONCE MR1 Duration: 1 Doses 
RX *diphenoxylate-atropine 2.5 mg-0.025 mg 1 tablet(s) by mouth 
once or twice daily as needed for diarrhea Disp #*4 Tablet 
Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Urinary tract infection

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure participating in your care at ___ 
___. 

You were admitted with diarrhea and nausea, and you were found 
to have a urinary tract infection. You will continue to take 
cefpodoxime to treat this infection. Take one tablet twice daily 
until ___. 

Have have had diarrhea while you were here. This may be caused 
by your urinary tract infection or be a viral gastroenteritis 
that will resolve on its own. You are also given a prescription 
for diarrhea, Lomotil 1 tablet to take once or twice daily as 
needed for diarrhea.

 
Followup Instructions:
___